US06395734B1
3-[5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid
4-(2-Carboxyethyl)-2-formyl-3-methylpyrrole (90 mg), 106 mg 5-bromo-2-oxindole, and 75 μL piperidine in 2 mL ethanol were heated to 95° C. for 5 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 2 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven to give 120 mg (64%) of the title compound as a brown solid.

reactant | 4-(2-Carboxyethyl)-2-formyl-3-methylpyrrole | 90 mg | C(=O)(O)CCC=1C(=C(NC1)C=O)C | C9H11NO3
reactant | 5-bromo-2-oxindole | 106 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | piperidine | 75 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid | 120 mg, 64% | BrC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C(=CN1)CCC(=O)O)C | C17H15BrN2O3
